US05852028
Ethyl 2-hydrazino-4-phenylpyrimidine-5-carboxylate
The title compound was prepared as described in Example 18, but employing a solution of ethyl 2-chloro-4-phenylpyrimidine-5-carboxylate (0.09 g, 0.34 mmol) and hydrazine (0.06 g, 1.7 mmol) in THF resulting in a 91% yield (0.08 g); m.p. 74°-75° C.

reactant | ethyl 2-chloro-4-phenylpyrimidine-5-carboxylate | 0.34 mmol, 0.09 g | ClC1=NC=C(C(=N1)C1=CC=CC=C1)C(=O)OCC | C13H11ClN2O2
reactant | hydrazine | 1.7 mmol, 0.06 g | NN | H4N2
solvent | THF | C1CCOC1 | C4H8O
product | Ethyl 2-hydrazino-4-phenylpyrimidine-5-carboxylate | 91% yield | N(N)C1=NC=C(C(=N1)C1=CC=CC=C1)C(=O)OCC | C13H14N4O2
